US04263207
Methyl 11-Chlorodibenzo[b,f][1,4]thiazepin-3-carboxylate 5,5-Dioxide
Add 6.34 gm. (20 mmole) of finely powdered methyl 10,11-dihydro-11-oxodibenzo[b,f][1,4]thiazepin-3-carboxylate 5,5-dioxide to a mixture of 6.25 gm. (30 mmole) phosphorous pentachloride in 17.3 ml. of phosphoryl chloride. Stir for 18 hours at room temperature. Separate the solids by filtration, wash with ether and dry in vacuo over potassium hydroxide. Dissolve the crude product in boiling tetrahydrofuran, filter and evaporate to a small volume in a stream of nitrogen. Dilute with acetonitrile and separate the precipitate by filtration in order to obtain the title product. (m.p. 254°-256° C.).

reactant | methyl 10,11-dihydro-11-oxodibenzo[b,f][1,4]thiazepin-3-carboxylate 5,5-dioxide | O=C1NC2=C(S(C3=C1C=CC(=C3)C(=O)OC)(=O)=O)C=CC=C2 | C15H11NO5S
reactant | phosphorous pentachloride | 30 mmole | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | phosphoryl chloride | P(=O)(Cl)(Cl)Cl | Cl3OP
product | Methyl 11-Chlorodibenzo[b,f][1,4]thiazepin-3-carboxylate 5,5-Dioxide | ClC1=NC2=C(S(C3=C1C=CC(=C3)C(=O)OC)(=O)=O)C=CC=C2 | C15H10ClNO4S
